US05866572
Using an analogous procedure to that described in Example 5 except that the reaction mixture was heated to reflux for 2 hours, 6-bromo-4-(3-chloro-4-fluoroanilino)quinazoline hydrochloride salt was reacted with di-isopropyl 3-thienylboronate to give 4-(3-chloro-4-fluoroanilino)-6-(3-thienyl)quinazoline in 51% yield, m.p. 195°-197° C.;

reactant | 6-bromo-4-(3-chloro-4-fluoroanilino)quinazoline hydrochloride salt | Cl.BrC=1C=C2C(=NC=NC2=CC1)NC1=CC(=C(C=C1)F)Cl
reactant | di-isopropyl 3-thienylboronate | S1C=C(C=C1)B(OC(C)C)OC(C)C | C10H17BO2S
product | 4-(3-chloro-4-fluoroanilino)-6-(3-thienyl)quinazoline | 51% yield | ClC=1C=C(NC2=NC=NC3=CC=C(C=C23)C2=CSC=C2)C=CC1F | C18H11ClFN3S
